US08097628B2
To a solution of 2-[3-chloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-pyridinyl]-2-propanol (328 mg, 1.038 mmol) in THF (10 ml) was added TBAF (1.557 ml, 1.557 mmol). The solution was stirred at room temperature for 3 h. The mixture was concentrated under vacuum and the residue was purified by Flashmaster chromatography on a 40 g Merk silica gel cartridge using DCM/MeOH 95:5 as eluent to obtain 2-[3-chloro-5-(hydroxymethyl)-2-pyridinyl]-2-propanol (210 mg, 95%) as colourless oil.

reactant | 2-[3-chloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-pyridinyl]-2-propanol | 1.038 mmol, 328 mg | ClC=1C(=NC=C(C1)CO[Si](C)(C)C(C)(C)C)C(C)(C)O | C15H26ClNO2Si
reactant | TBAF | 1.557 mmol, 1.557 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-[3-chloro-5-(hydroxymethyl)-2-pyridinyl]-2-propanol | 210 mg, 95% | ClC=1C(=NC=C(C1)CO)C(C)(C)O | C9H12ClNO2
